US07053212B2
To a solution of N-(4-hydroxy-benzyl)-N-(4-iodo-phenyl)-benzenesulfonamide (3.20 g, 6.88 mmol) in 16 mL dimethylformamide was added allyl alcohol (1.20 mL, 17.60 mmol), Pd(OAc)2 (0.094 g, 0.42 mmol), sodium bicarbonate (1.42 g, 16.9 mmol), and tetrabutylammonium chloride (1.95 g, 7.02 mmol). The reaction was stirred at 50° C. for 19 hr. The reaction mixture was cooled, water and ethyl acetate were added, and the mixture was filtered through diatomaceous earth. The aqueous layer was washed twice with ethyl acetate. The combined organic layers were dried (magnesium sulfate) and concentrated. Medium pressure silica gel chromatography (25% ethyl acetate/hexanes to 50% ethyl acetate/hexanes) afforded 2.12 g (78%) of N-(4-hydroxy-benzyl)-N-[4-(3-oxo-propyl)-phenyl]-benzenesulfonamide.

reactant | N-(4-hydroxy-benzyl)-N-(4-iodo-phenyl)-benzenesulfonamide | 6.88 mmol, 3.20 g | OC1=CC=C(CN(S(=O)(=O)C2=CC=CC=C2)C2=CC=C(C=C2)I)C=C1 | C19H16INO3S
reactant | allyl alcohol | 17.60 mmol, 1.20 mL | C(C=C)O | C3H6O
reactant | sodium bicarbonate | 16.9 mmol, 1.42 g | C([O-])(O)=O.[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 16 mL | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium chloride | 7.02 mmol, 1.95 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | Pd(OAc)2 | 0.42 mmol, 0.094 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-hydroxy-benzyl)-N-[4-(3-oxo-propyl)-phenyl]-benzenesulfonamide | 2.12 g, 78% | OC1=CC=C(CN(S(=O)(=O)C2=CC=CC=C2)C2=CC=C(C=C2)CCC=O)C=C1 | C22H21NO4S
